US04861798
9(4-chlorophenyl)nonanoic acid
To a solution of 3.4 gms KOH in 23 ml diethylene glycol was added 5.4 gms 9(4-chlorophenyl)-7-ketononanoic acid and 3 ml hydrazine hydrate. The resulting mixture was heated at 145° for 1 hour. The mixture was cooled, attached to a water aspirator, and the excess water and hydrazine distilled off. The mixture was then re-heated to 145° for 3 hours and cooled. The oily reaction mixture was diluted with water, acidified with conc. HCl, and the precipitated solid filtered off. Since the NMR showed starting material still present, the solid was dissolved in 25 ml diethylene glycol and 4.1 ml hydrazine hydrate was added. This solution was refluxed for 3 hr, then the water and hydrazine were distilled off under vacuum as before. 5.2 gms KOH was added and the resulting mixture was heated at 160° for 3.5 hours, then cooled to room temperature overnight. It was dissolved in water and acidified with conc. HCl. The precipitated solid was dissolved in 10% KOH solution, washed three times with ether, filtered, acidified with conc. HCl, and placed in the cold overnight. The solid was filtered off, dried and recrystallized from hexanes to give 3.1 gm white solid of m.p. 73°-5° C.

reactant | KOH | 3.4 gms | [OH-].[K+]
reactant | 9(4-chlorophenyl)-7-ketononanoic acid | 5.4 gms | ClC1=CC=C(C=C1)CCC(CCCCCC(=O)O)=O | C15H19ClO3
reactant | hydrazine hydrate | 3 ml | O.NN
reactant | water | O | H2O
solvent | diethylene glycol | 23 ml | C(COCCO)O | C4H10O3
product | 9(4-chlorophenyl)nonanoic acid | 3.1 gm | ClC1=CC=C(C=C1)CCCCCCCCC(=O)O | C15H21ClO2
